US07820821B2
To a stirred solution of 2-chloro-4-fluoro-1-nitrobenzene (3 mmol) in DMF (5 mL) was added 6-hydroxyindazole (3 mmol) and K2CO3 (6 mmol). The contents were heated at 90° C. for 6 h. The reaction mixture was cooled to RT, and the contents were poured onto ice cold water with vigorous stirring. The solid formed was collected by filtration, washed with water, and dried in vacuo to provide the product, 6-(3-chloro-4-nitrophenoxy)-1H-indazole as a yellow solid, which was used for further transformation without any purification.

reactant | 2-chloro-4-fluoro-1-nitrobenzene | 3 mmol | ClC1=C(C=CC(=C1)F)[N+](=O)[O-] | C6H3ClFNO2
reactant | 6-hydroxyindazole | 3 mmol | OC1=CC=C2C=NNC2=C1 | C7H6N2O
reactant | K2CO3 | 6 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 6-(3-chloro-4-nitrophenoxy)-1H-indazole | ClC=1C=C(OC2=CC=C3C=NNC3=C2)C=CC1[N+](=O)[O-] | C13H8ClN3O3
